US07622480B2
This compound was prepared following the procedure described in example 4, parts E and F, starting with 1.5 g (5.3 mmol) of 1-furan-3-ylmethyl-3-piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine and 1.7 g (6.9 mmol) of 2-(2-chloroethoxy)-4-chlorobenzoic acid methyl ester. After standard work-up and purification, 0.3 g (10% yield) of 4-chloro-2-{2-[4-(1-furan-3-ylmethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid were obtained.

reactant | 1-furan-3-ylmethyl-3-piperidin-4-yl-1H-pyrrolo[2,3-b]pyridine | 5.3 mmol, 1.5 g | O1C=C(C=C1)CN1C=C(C=2C1=NC=CC2)C2CCNCC2 | C17H19N3O
reactant | 2-(2-chloroethoxy)-4-chlorobenzoic acid methyl ester | 6.9 mmol, 1.7 g | COC(C1=C(C=C(C=C1)Cl)OCCCl)=O | C10H10Cl2O3
product | 4-chloro-2-{2-[4-(1-furan-3-ylmethyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid | 0.3 g, 10% yield | ClC1=CC(=C(C(=O)O)C=C1)OCCN1CCC(CC1)C1=CN(C2=NC=CC=C21)CC2=COC=C2 | C26H26ClN3O4
